### PR TITLE
[Merged by Bors] - feat(Order/InitialSeg): extensionality for principal segments

### PR DESCRIPTION
**Pull request by vihdzp**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Order/InitialSeg.lean [hunk 1]
```diff
@@ -265,6 +268,21 @@ instance : CoeOut (r ≺i s) (r ↪r s) :=
...
   ⟨fun f => f⟩
 
+instance [IsIrrefl β s] [IsTrichotomous β s] : FunLike (r ≺i s) α β where
+  coe f := f.toFun
+  coe_injective' := by
+    rintro ⟨f, a, hf⟩ ⟨g, b, hg⟩ h
+    cases (DFunLike.coe_injective h : f = g)
+    congr
+    refine extensional_of_trichotomous_of_irrefl s fun x ↦ ?_
+    rw [← hf, hg]
```
Comment (eric-wieser) [inline Mathlib/Order/InitialSeg.lean:278]: Having both of these at once is a bad idea, since now you have two different spellings for coercion to function.

Comment (eric-wieser) [reply Mathlib/Order/InitialSeg.lean:278]: I think it would be better to instead prove that `toRelEmbedding` is injective.

File: Mathlib/Order/InitialSeg.lean [hunk 2]
```diff
@@ -265,6 +268,24 @@ instance : CoeOut (r ≺i s) (r ↪r s) :=
...
+  refine extensional_of_trichotomous_of_irrefl s fun x ↦ ?_
+  rw [← hf, hg]
+
+@[simp]
+theorem toRelEmbedding_inj [IsIrrefl β s] [IsTrichotomous β s] {f g : r ≺i s} :
+    f.toRelEmbedding = g.toRelEmbedding ↔ f = g :=
+  toRelEmbedding_injective.eq_iff
+
+@[ext]
+theorem ext [IsIrrefl β s] [IsTrichotomous β s] {f g : r ≺i s} (h : ∀ x, f x = g x) : f = g := by
```
Comment (eric-wieser) [inline Mathlib/Order/InitialSeg.lean:284]: Could add `ext_iff` too for good measure

**Review by eric-wieser — APPROVED** [review]
bors d+

Thanks!

File: Mathlib/Order/InitialSeg.lean (hunk 2 above)
Comment (vihdzp) [reply Mathlib/Order/InitialSeg.lean:284]: Doesn't `@[ext]` automatically generate this?

Comment (vihdzp) [reply Mathlib/Order/InitialSeg.lean:284]: Indeed, it does.
